US08859574B2
Under nitrogen, to a solution of 2-bromobutanoic acid (2.0 g, 12.0 mmol) in DCM (50 mL) at 0° C. were sequentially added thionyl chloride (2.6 mL, 35.9 mmol) and 0.5 mL of DMF. The reaction was allowed to warm to room temperature and was stirred overnight. The reaction mixture was concentrated in vacuo and then cooled to 0° C. Thirty (30) mL of 40% ethylamine water solution was added slowly. The reaction was allowed to warm to room temperature and was stirred for 2 h, followed by extraction with EtOAc. The combined organic extracts were dried (Na2SO4), and concentrated in vacuo to afford 2-bromo-N-ethylbutanamide.

reactant | 2-bromobutanoic acid | 12.0 mmol, 2.0 g | BrC(C(=O)O)CC | C4H7BrO2
reactant | thionyl chloride | 35.9 mmol, 2.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-N-ethylbutanamide | BrC(C(=O)NCC)CC | C6H12BrNO
